US04379788
2-[4-(2-Hydroxy-3-tert.butylamino-propoxy)-phenyl]-3-isopropyl-6-methoxy-3,4-dihydro-quinazolin-4-one
This compound was prepared analogous to Example 1 from 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-isopropyl-6-methoxy-3,4-dihydro-quinazolin-4-one and tert. butylamine.

reactant | 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-isopropyl-6-methoxy-3,4-dihydro-quinazolin-4-one | O1C(C1C)OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C(C)C)=O)OC | C21H22N2O4
reactant | tert. butylamine | C(C)(C)(C)N | C4H11N
product | 2-[4-(2-Hydroxy-3-tert.butylamino-propoxy)-phenyl]-3-isopropyl-6-methoxy-3,4-dihydro-quinazolin-4-one | OC(COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C(C)C)=O)OC)CNC(C)(C)C | C25H33N3O4
